US09169267B2
4-(4-nitrobenzyl)tetrahydro[1,3]oxazolo[2,3-b][1,3]oxazol-4-ium chloride
A solution of 1.716 g (10 mmol) 4-nitrobenzyl chloride and 1.152 g (10 mmol) tetrahydro-[1,3]oxazolo[2,3-b][1,3]oxazole in 20 ml of chloroform was stirred at the room temperature for 3 days. The precipitate was filtered off, washed twice with dichloromethane and dried. 2.161 g (75.4%) of white amorphous product was obtained, which can be further purified by recrystallisation from rectified ethanol.

reactant | 4-nitrobenzyl chloride | 10 mmol, 1.716 g | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | tetrahydro-[1,3]oxazolo[2,3-b][1,3]oxazole | 10 mmol, 1.152 g | O1CCN2C1OCC2 | C5H9NO2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(4-nitrobenzyl)tetrahydro[1,3]oxazolo[2,3-b][1,3]oxazol-4-ium chloride | 2.161 g, 75.4% | [Cl-].[N+](=O)([O-])C1=CC=C(C[N+]23C(OCC2)OCC3)C=C1 | InChI=1S/C12H15N2O4.ClH/c15-13(16)11-3-1-10(2-4-11)9-14-5-7-17-12(14)18-8-6-14;/h1-4,12H,5-9H2;1H/q+1;/p-1
